US04594199
3-[Ethoxy-(4-phenylbutyl)phosphinyl]propiononitrile
To a solution of 4-phenylbutyl phosphonous acid, ethyl ester (0.5 g, 0.0022 mole) in chloroform (10 ml) was added triethylamine (0.341 ml, 0.0024 mole), trimethyl silylchloride (0.303 ml, 0.0024 mole) and acrylonitrile (0.17 ml, 0.0024 mole). The reaction mixture was stirred at reflux temperature for 18 hours; the mixture was poured into crushed ice (15 gm) containing 10 ml 10% HCl acid. It was shaken in a separatory funnel; a chloroform layer was evaporated, and the aqueous layer extracted once with ethyl acetate. The combined organic phase was washed with water, dried over anhydrous sodium sulphate and the organic solvent removed on a rotavap to produce the title compound as a thick oil (0.6 g, 97% yield).

reactant | 4-phenylbutyl phosphonous acid, ethyl ester | 0.0022 mole, 0.5 g | C1(=CC=CC=C1)CCCCP(OCC)[O-]
reactant | triethylamine | 0.0024 mole, 0.341 ml | C(C)N(CC)CC | C6H15N
reactant | trimethyl silylchloride | 0.0024 mole, 0.303 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | acrylonitrile | 0.0024 mole, 0.17 ml | C(C=C)#N | C3H3N
reactant | HCl | 10 ml | Cl | ClH
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[Ethoxy-(4-phenylbutyl)phosphinyl]propiononitrile | 0.6 g, 97% yield | C(C)OP(=O)(CCC#N)CCCCC1=CC=CC=C1 | C15H22NO2P
